US05356886
To a mixture of 2-[di-(t-butoxycarbonyl)]amino-9-hydroxy-6-methoxypurine (154 mg, 404 μmol), diisopropyl (E)-4-hydroxybut-1-enylphosphonate (89 mg, 404 μmol) and triphenylphosphine (159 mg, 606 μmol) in dry tetrahydrofuran (4 ml) stirred at 0° C. was added diethyl azodicarboxylate (105 mg, 606 μmol). The mixture was allowed to warm to room temperature and stirred for 2.3 hr. The solvent was removed and the residue was purified by column chromatography on silica gel eluting with ethyl acetate-methanol (20:1) to give (E)-2-[di-(t-butoxycarbonyl)]amino-9-[4-(diisopropoxyphosphoryl)but-3-enyloxy]-6-methoxypurine as a colourless gum (150 mg, 62%); λmax (EtOH) 255 (12,300)nm; υmax (KBr) 3440, 3220, 2975, 1790, 1600, 1370, 1280 and 1100 cm-1 ; δH [(CD3)2SO] 1.22 (12H, dd, J 6 Hz and 7 Hz, CH(CH3)2), 1.40 (18H, S, C(CH3)3), 2.70 (2H, m, CH2), 4.08 (3H, s, CH3O), 4.53 (4H, m, CH2O and CH(CH3)2), 5.98 (1H, dd, J 17 Hz and 19 Hz, PCH=CH), 6.25 (1H, ddt, J 6 Hz, 17 Hz and 22 Hz, PCH=CH), 8.71 (1H, s, 8-H) (Found: M+ 599.2724. C26H42N5O9P requires M+ 599.2720).

reactant | 2-[di-(t-butoxycarbonyl)]amino-9-hydroxy-6-methoxypurine | 404 μmol, 154 mg | C(C)(C)(C)OC(=O)N(C1=NC(=C2N=CN(C2=N1)O)OC)C(=O)OC(C)(C)C | C16H23N5O6
reactant | diisopropyl (E)-4-hydroxybut-1-enylphosphonate | 404 μmol, 89 mg | OCC/C=C/P(OC(C)C)(OC(C)C)=O | C10H21O4P
reactant | triphenylphosphine | 606 μmol, 159 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 606 μmol, 105 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | (E)-2-[di-(t-butoxycarbonyl)]amino-9-[4-(diisopropoxyphosphoryl)but-3-enyloxy]-6-methoxypurine | 150 mg, 62% | C(C)(C)(C)OC(=O)N(C1=NC(=C2N=CN(C2=N1)OCC\C=C\P(=O)(OC(C)C)OC(C)C)OC)C(=O)OC(C)(C)C | C26H42N5O9P
